US06197990B1
Sodium hydride (containing mineral oil; the content of sodium hydride: 60%) (0.80 g) and m-chloroaniline (0.064 g) were added to the solution of tetramethylcyclopentadiene (1.34 g; purity: 91.3%; pure compound: 1.22 g) dissolved in tetrahydrofuran (6.73 g), and stirred at 50° C. for one hour. Thus, tetramethylcyclopentadienylsodium was obtained in the form of a solution in tetrahydrofuran.

reactant | Sodium hydride | [H-].[Na+]
reactant | m-chloroaniline | 0.064 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | tetramethylcyclopentadiene | 1.34 g | CC1=C(C(=C(C1)C)C)C | C9H14
solvent | tetrahydrofuran | 6.73 g | O1CCCC1 | C4H8O
product | tetramethylcyclopentadienylsodium | CC1=C(C(=C(C1[Na])C)C)C | InChI=1S/C9H13.Na/c1-6-5-7(2)9(4)8(6)3;/h5H,1-4H3;
